US05122350
A process for preparing magnesium-enriched calcium magnesium acetate which includes the steps of selectively calcining dolomite in the presence of water vapor at a temperature barely high enough to cause MgCO3 to destruct to MgO and CO2 but low enough so as not to substantially affect CaCO3, cooling the resultant calcined product in an atmosphere of humidified CO2 to cause any CaO that formed to be converted to CaCO3, reacting the resultant calcined dolomite (CaCO3.MgO) with an acid solution to cause magnesium to preferentially dissolve at a higher rate than calcium to produce a calcium magnesium acetate solution enriched in magnesium and an unreacted residue rich in calcium and subsequently separating the calcium magnesium acetate solution from the calcium rich residue.

reactant | magnesium | [Mg] | Mg
reactant | CO2 | C(=O)=O | CO2
reactant | CaCO3 | C(=O)([O-])[O-].[Ca+2]
reactant | calcium | [Ca] | Ca
solvent | water | O | H2O
product | calcium magnesium acetate | C(C)(=O)[O-].[Mg+2].[Ca+2].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-] | InChI=1S/4C2H4O2.Ca.Mg/c4*1-2(3)4;;/h4*1H3,(H,3,4);;/q;;;;2*+2/p-4
